US07615562B2
[4-(5-Benzyloxy-thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Method C, starting from (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and 2-benzyloxy-thiophene.

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | 2-benzyloxy-thiophene | C(C1=CC=CC=C1)OC=1SC=CC1 | C11H10OS
product | [4-(5-Benzyloxy-thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | C(C1=CC=CC=C1)OC1=CC=C(S1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C24H30N4OS
